US04001199
Production of β-Ala-Arg-Gly-Phe-Phe-Tyr-Thr-Pro-OH
Amino acid analysis: Arg, 1.05; Thr, 1.00; Pro, 1.02; Gly, 0.95; Tyr, 0.95; Phe, 2.02; β-Ala, 0.93 (peptide content 85.5 %).

reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | β-Ala | NCCC(=O)O | C3H7NO2
product | β-Ala-Arg-Gly-Phe-Phe-Tyr-Thr-Pro-OH | NCCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)O)CCC1 | C47H63N11O11
